US04416879
Vilsmeir reagent was prepared from N,N-dimethylformamide (0.52 g) and phosphorus oxychloride (1.1 g) in a usual manner. 2-(3-Thietanyloxyimino)-2-(2-formamidothiazol-4-yl)acetic acid (syn isomer) (1.5 g) was added to the stirred suspension of Vilsmeir reagent in tetrahydrofuran (15 ml) under ice-cooling and the mixture was stirred for 30 minutes at below 5° C. The mixture became clear solution [Solution A]. A mixture of trimethylsilylacetamide (7.2 g) and 1-[(7-amino-4-carboxy-3-cephem-3-yl)methyl]pyridinium chloride hydrochloride (2.0 g) in tetrahydrofuran (40 ml) was stirred at 45° C. for 30 minutes. To the mixture was added the above Solution A all at once at -30° C., and the resulting solution was stirred at -15° C. for 30 minutes. Water (50 ml) and ethyl acetate (50 ml) were added to the reaction mixture at -10° C. The organic layer was separated and the aqueous layer was extracted twice with a mixture of ethyl acetate (50 ml) and tetrahydrofuran (50 ml). The combined organic layers were dried over magnesium sulfate and evaporated in vacuo. The residue was pulverized with diisopropyl ether to give 7-[2-(3-thietanyloxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate (syn isomer) (1.2 g).

reactant | phosphorus oxychloride | 1.1 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(3-Thietanyloxyimino)-2-(2-formamidothiazol-4-yl)acetic acid | 1.5 g | S1CC(C1)ON=C(C(=O)O)C=1N=C(SC1)NC=O | C9H9N3O4S2
reactant | trimethylsilylacetamide | 7.2 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | 1-[(7-amino-4-carboxy-3-cephem-3-yl)methyl]pyridinium chloride hydrochloride | 2.0 g | Cl.[Cl-].NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)O)C1=O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | Water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 0.52 g | CN(C=O)C | C3H7NO
product | 7-[2-(3-thietanyloxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate | 1.2 g | S1CC(C1)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)C=1N=C(SC1)NC=O | C22H20N6O6S3
